data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]12CCCC[C+:22]1CCC2.OP(=O)(O)[O-:10]>>C1CC[C:21]2=[C:22](C1)CCC2.[H:20][O:10]P(=O)(O)O 10=20;20,21=21,22
[H:10][BH2-:11]C#N.CC1(C2=C(C=C(C(=C2)N3CC[N+:21](=[C:20]4COC4)CC3)Br)C(=O)C5=C1NC6=CC=CC=C65)C.CC(=O)[O-].CO.O>>[H:10][C:20]1(COC1)[N:21]2CCN(CC2)C3=CC4=C(C=C3Br)C(=O)C5=C(C4(C)C)NC6=CC=CC=C65.[BH2:11]C#N.CC(=O)[O-].CO.O 10,11=10,20;20,21=21
C[C:20](=[O:21])CC=C(C)[NH:10]C1=NNC=C1.CC(=O)O.O>>CC1=CC[C:20]([NH+:10]1C2=NNC=C2)(C)[O-:21].CC(=O)O.O 10=20;20,21=21
CCO[C:10]1(CCC(C(=C1)O)(C)C)[OH2+:11]>>CCO[C+:10]1CCC(C(=C1)O)(C)C.[OH2:11] 10,11=11
CCC1=C(C=C(C=C1)[S+:21]2C[CH:20]2C)C3CCCCC3.CC[NH:10]CC(C)C.CCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCC1=C(C=C(C=C1)[S:21]C[CH:20](C)[NH+:10](CC)CC(C)C)C2CCCCC2.CCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC[Si]1(C(C(CC(O1)C2=CC=CC=C2)O[Si](C)(C)C)[CH+:20][CH2:10][Si-:11](C)(C)(C)[O+]=CCC(C3=CC=CC=C3)O[Si](CC)(CC)C=CC[Si](C)(C)C)CC>>CC[Si]1(C(C(CC(O1)C2=CC=CC=C2)O[Si](C)(C)C)[CH:20]=[CH2:10])CC.CC[Si](CC)(C=CC[Si](C)(C)C)OC(CC=[O+][Si:11](C)(C)C)C1=CC=CC=C1 10,11=10,20
C[N:10](C)[CH:20](O)[OH+:21]C.[Cl-]>>C[N+:10](=[CH:20]O)C.C[OH:21].[Cl-] 10=20;20,21=21
CCO[P:10](OCC)OCC.C1=CC=C(C=C1)CC[CH2:20][Br:21]>>CCO[P+:10]([CH2:20]CCC1=CC=CC=C1)(OCC)OCC.[Br-:21] 10=20;20,21=21
[H:20][N+:21]1(CCN(CC1)C2=CC=C(C=C2)[N+](=O)[O-])C3(CC4CC(C4)C3)O.CC(=O)[O-:10].[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]>>[H:20][O:10]C(=O)C.C1C[N:21](CCN1C2=CC=C(C=C2)[N+](=O)[O-])C3(CC4CC(C4)C3)O.[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+] 10=20;20,21=21
COC1=C(C2=C(CC3C4C2(CCN3CC5CCC5)[CH+:20]C(=CC4)O)C=C1)[OH:10].CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>COC1=C2C3=C(CC4C5C3(CCN4CC6CCC6)[CH:20]([OH+:10]2)C(=CC5)O)C=C1.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10=20,
[CH:11]1=[CH:10]OC=C1Br.[N+:20](=O)=[O:21]>>C1=C([CH+:11][CH:10](O1)[N+:20](=O)[O-:21])Br 10,11=10,20;20,21=21
[H:20][CH2:21]P(=O)(C)C.[H:10][K:11]>>CP(=O)(C)[CH2-:21].[H:10][H:20].[K+:11] 10,11=10,20;20,21=21
CC(=C)[CH2:20][Br:21].[C-:10]#N>>CC(=C)[CH2:20][C:10]#N.[Br-:21] 10=20;20,21=21
[H:20][O+:21]1CCOC12CCC3C2(CCC4C3CCC5C4(CCC(C5)O)C)C.[OH2:10].CS(=O)(=O)[O-]>>CC12CCC(CC1CCC3C2CCC4(C3CCC45OCC[O:21]5)C)O.[H:20][OH2+:10].CS(=O)(=O)[O-] 10=20;20,21=21
CCC(C)C(C(=O)NC1CCCC1)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CCC(C)C(C(=O)NC1CCCC1)N[C:20](=[O:10])[OH:21].C[C+:11](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
C1CC(=O)N(C1=O)O[C:20](=[O:21])OCC2C3=C(C=CC=C3)C4=C2C=CC=C4.C1=CC=C(C=C1)CC(C(=O)[O-])[NH2:10]>>C1CC(=O)N(C1=O)O[C:20]([NH2+:10]C(CC2=CC=CC=C2)C(=O)[O-])([O-:21])OCC3C4=C(C=CC=C4)C5=C3C=CC=C5 10=20;20,21=21
CCC=[CH:10][Mg:11]Br.COC(=O)[CH:20]=[N:21][C:22](=[O:23])OCC1=CC=CC=C1>>CCC=[CH:10][CH:20](C(=O)OC)[N:21]=[C:22]([O-:23])OCC1=CC=CC=C1.[Mg+:11]Br 10,11=10,20;22,23=23;20,21=21,22
CCOC(=O)C[C:20](C)([O-:10])[O:21]C>>CCOC(=O)C[C:20](=[O:10])C.C[O-:21] 10=20;20,21=21
C[CH+:20]C.C[C:13]1=[C:12]2C=CC=C[C:11]2=[CH:10]C=C1>>C[C+:13]1C=C[CH:10]([C:11]2=[C:12]1C=CC=C2)[CH:20](C)C 10,11=10,20;12,13=11,12
C1[CH:20]([O:21]1)CCCC[O-:10]>>C1CC[O:10][CH:20](C1)C[O-:21] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C:22]1=[NH2+:23])C2C3C(CCC2=N)CCN3CCS(=O)C4=CC=CC=C4.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1CC(=N)C(C2C1CCN2CCS(=O)C3=CC=CC=C3)[C:21]4=[C:22](C=CC=C4)[NH2:23].O 10=20;22,23=23;20,21=21,22
[Li+:20].C1CS[CH-:10]SC1>>[Li:20][CH:10]1SCCCS1 10=20,
[H:20][OH+:21]C(N)N.[C-:10]#N.N>>[H:20][C:10]#N.C(N)(N)[OH:21].N 10=20;20,21=21
CC1C[C:11](=[N:20][O:21][C:22](=[OH+:23])C(F)(F)F)[C:10]2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C.C(=O)(C(F)(F)F)[O-]>>CC1C[C+:11]=[N:20][C:10]2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C.[C:22](=[O:21])(C(F)(F)F)[OH:23].C(=O)(C(F)(F)F)[O-] 10,11=10,20;22,23=23;20,21=21,22
CC[NH2+:21][CH:20](C)[O:10]C>>CC[NH2:21].C[CH:20]=[O+:10]C 10=20;20,21=21
CC1=CC=C(C=C1)[S:20](=O)(=[O:21])Cl.C1CC2CC=CCC1C2=N[O-:10].O.[Na+]>>CC1=CC=C(C=C1)[S:20](=O)([O-:21])([O:10]N=C2C3CCC2CC=CC3)Cl.O.[Na+] 10=20;20,21=21
CCOCC(=O)NC1=C(C2=C(C=CC=C2)[N:21]=[C:20]1Cl)NCC(C)(C)O.[NH3:10]>>CCOCC(=O)NC1=C(C2=C(C=CC=C2)[N-:21][C:20]1([NH3+:10])Cl)NCC(C)(C)O 10=20;20,21=21
C1=C[CH:10]=[C:11](C=C1)CCC[C+:20]=O>>C1C[C:20](=O)[CH:10]2C=CC=C[C+:11]2C1 10,11=10,20
CC(C)(C)[NH2:10].[CH3:20][I:21]>>CC(C)(C)[NH2+:10][CH3:20].[I-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1COC([O:10]1)C2=CC(=CC(=C2)OC3=C(C(=CC=C3Br)CO)F)C#N.O>>[H:20][O+:10]1CCOC1C2=CC(=CC(=C2)OC3=C(C(=CC=C3Br)CO)F)C#N.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].O 10=20;20,21=21
C[CH:20]1[CH2:10][P-:11](=O)([O:21]1)(C)C>>C[CH:20]=[CH2:10].C[P:11](=O)(C)[O-:21] 10,11=10,20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)S(=O)(=O)O)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=CC(=C2)S(=O)(=O)O 10=20;20,21=21,22
[H:20][O:21]CC1=C(N=C2C=CC=CC2=C1)Cl.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.C1=CC2=CC(=C(N=C2C=C1)Cl)C[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
C[O+](C)[Si-:10](C)(C)(C)[O:11]S(=O)(=O)C>>C[O+](C)[Si:10](C)(C)C.CS(=O)(=O)[O-:11] 10,11=11
